* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
X0 OUTN OUTP VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X1 OUTN OUTP a_n4462_5384# VSS nfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X2 OUTP CLK VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X3 OUTN OUTP VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X4 a_n2906_5384# INN a_n3610_2906# VSS nfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X5 VDD OUTP OUTN VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X6 a_n4462_5384# INP a_n3610_2906# VSS nfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X7 VDD OUTN OUTP VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X8 VDD CLK OUTP VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X9 OUTN OUTP a_n4462_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X10 OUTP OUTN a_n2906_5384# VSS nfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X11 a_n4462_5384# CLK VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X12 a_n3610_2906# INP a_n4462_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X13 a_n3610_2906# INN a_n2906_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X14 OUTP OUTN VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X15 VDD CLK a_n4462_5384# VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X16 a_n4462_5384# INP a_n3610_2906# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X17 a_n2906_5384# INN a_n3610_2906# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X18 VSS CLK a_n3610_2906# VSS nfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X19 OUTP OUTN a_n2906_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X20 OUTP OUTN a_n2906_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X21 VSS CLK a_n3610_2906# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X22 a_n2906_5384# CLK VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X23 a_n2906_5384# OUTN OUTP VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X24 OUTN CLK VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X25 VDD CLK a_n2906_5384# VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X26 OUTP CLK VDD VDD pfet_03v3 ad=0.78p pd=3.8u as=0.364p ps=1.86u w=1.3u l=0.6u
X27 a_n4462_5384# OUTP OUTN VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X28 VDD CLK OUTN VDD pfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X29 a_n4462_5384# OUTP OUTN VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X30 a_n4462_5384# CLK VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X31 a_n3610_2906# CLK VSS VSS nfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X32 OUTP OUTN VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X33 a_n3610_2906# CLK VSS VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X34 a_n2906_5384# CLK VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X35 OUTN CLK VDD VDD pfet_03v3 ad=0.364p pd=1.86u as=0.78p ps=3.8u w=1.3u l=0.6u
X36 OUTN OUTP a_n4462_5384# VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
X37 a_n2906_5384# OUTN OUTP VSS nfet_03v3 ad=0.364p pd=1.86u as=0.364p ps=1.86u w=1.3u l=0.6u
.ends

