* NGSPICE file created from strongarm_comparator.ext - technology: gf180mcuD

.subckt strongarm_comparator VDD VSS INP INN CLK OUTP OUTN
X0 a_n4546_4360# INN a_n3842_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X1 OUTN OUTP a_n5398_8290# VSS nfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X2 a_n3842_8290# CLK VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X3 a_n5398_8290# INP a_n4546_4360# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X4 a_n3842_8290# INN a_n4546_4360# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X5 OUTP OUTN VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X6 OUTN CLK VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X7 OUTP OUTN a_n3842_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X8 a_n4546_4360# INP a_n5398_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X9 OUTN OUTP a_n5398_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X10 VDD CLK OUTN VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X11 a_n3842_8290# OUTN OUTP VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X12 VDD CLK OUTP VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X13 OUTP OUTN a_n3842_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X14 OUTP CLK VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X15 OUTP CLK VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X16 VSS CLK a_n4546_4360# VSS nfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X17 VDD OUTN OUTP VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X18 VSS CLK a_n4546_4360# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X19 a_n5398_8290# OUTP OUTN VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X20 OUTN OUTP VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X21 OUTP OUTN VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X22 a_n5398_8290# OUTP OUTN VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X23 VDD CLK a_n3842_8290# VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X24 OUTN OUTP VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X25 OUTP OUTN a_n3842_8290# VSS nfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X26 OUTN OUTP a_n5398_8290# VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X27 VDD OUTP OUTN VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X28 a_n5398_8290# INP a_n4546_4360# VSS nfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X29 a_n4546_4360# CLK VSS VSS nfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X30 a_n5398_8290# CLK VDD VDD pfet_03v3 ad=0.294p pd=1.61u as=0.63p ps=3.3u w=1.05u l=0.6u
X31 a_n3842_8290# OUTN OUTP VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X32 a_n5398_8290# CLK VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X33 a_n3842_8290# CLK VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X34 OUTN CLK VDD VDD pfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X35 a_n3842_8290# INN a_n4546_4360# VSS nfet_03v3 ad=0.63p pd=3.3u as=0.294p ps=1.61u w=1.05u l=0.6u
X36 a_n4546_4360# CLK VSS VSS nfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
X37 VDD CLK a_n5398_8290# VDD pfet_03v3 ad=0.294p pd=1.61u as=0.294p ps=1.61u w=1.05u l=0.6u
.ends

